US06310056B1
To a solution of 460 mg of allyl (1S,5R,6S)-6-((1R)-1-t-butyldimethylsilyloxyethyl)-2-(imidazo[5,1-b]thiazol-7-yl)-1-methyl-1-carbapen-2-em-3-carboxylate in 14 ml of THF were added 860 μl and 3.76 ml of a 1 M tetra-n-butylammonium fluoride in THF, and the mixture was stirred at room temperature for 2 days. The reaction mixture was diluted with 120 ml of ethy acetate, washed with 30 ml of semi-saturated aqueous saline, and then with 30 ml of a mixed solution of semi-saturated aqueous saline and a saturated aqueous sodium hydrogen carbonate solution (1:1), dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (dichloromethane:methanol=97:3-95:5) to give 286 mg of allyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-7-yl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | allyl (1S,5R,6S)-6-((1R)-1-t-butyldimethylsilyloxyethyl)-2-(imidazo[5,1-b]thiazol-7-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 460 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N=CN3C2SC=C3)C(=O)OCC=C)C1=O | C24H33N3O4SSi
reactant | tetra-n-butylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 14 ml | C1CCOC1 | C4H8O
solvent | ethy acetate | 120 ml | C(C)(=O)OCC | C4H8O2
product | allyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-7-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 286 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N=CN3C2SC=C3)C(=O)OCC=C)C1=O | C18H19N3O4S
